* C:\ITBA\9 Cuatrimestre\Sistemas de Control\Trabajos Prácticos\CONTROL_TP2\Simulaciones\Spice\simulacion_spice.asc
R2 N002 N001 10k
R1 N001 N005 10k
R4 N003 feed2 10k
R3 feed2 N002 10k
R9 N006 N009 10k
R10 Vout N006 10k
R8 N008 N007 47k
R6 N010 feed1 10k
R7 N007 N010 10k
C6 N009 N008 1µ
C5 feed1 N004 1µ
R5 N004 N003 10k
Rf2 feed2 N007 18k
XU1 0 N001 Vs+ Vs- N002 TL082
XU2 0 feed2 Vs+ Vs- N003 TL082
XU3 0 N004 Vs+ Vs- feed1 TL082
XU4 0 N010 Vs+ Vs- N007 TL082
XU6 0 N006 Vs+ Vs- Vout TL082
V2 Vs+ 0 12
V3 0 Vs- 12
XU5 0 N008 Vs+ Vs- N009 TL082
Rf1 feed2 Vout 10k
V1 N005 0 PULSE(0 2 0 0 0 1 0 1)
.inc "TL082.301"
.tran 10s
.backanno
.end
